US04126687
A mixture of 5 parts of 5-chloro-1-{1-[3-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)propyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one, 10 parts of acetic acid anhydride and 90 parts of methylbenzene is stirred and refluxed overnight. The reaction mixture is cooled, water is added and the whole is alkalized with a diluted sodium carbonate solution. The layers are separated and the organic phase is dried, filtered and evaporated. The residue is crystallized from methylbenzene. The product is filtered off and recrystallized from methylbenzene, yielding 4.5 parts of 3-acetyl-5-chloro-1-{1-[3-(3-acetyl-2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-propyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one; mp. 185.3° C.

reactant | 5-chloro-1-{1-[3-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)propyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C2CCN(CC2)CCCN2C(NC3=C2C=CC=C3)=O)C=C1 | C22H24ClN5O2
reactant | acetic acid anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | methylbenzene | CC1=CC=CC=C1 | C7H8
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 3-acetyl-5-chloro-1-{1-[3-(3-acetyl-2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-propyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one | C(C)(=O)N1C(N(C2=C1C=C(C=C2)Cl)C2CCN(CC2)CCCN2C(N(C1=C2C=CC=C1)C(C)=O)=O)=O | C26H28ClN5O4
